US03966737
10.6 g. of 10-chloro-8-fluoro-10,11-dihydro-3-methyldibenzo[b,f]thiepin, 200 ml. of chloroform and 11.4 g. of N-methylpiperazine are heated at reflux for 30 hours. The mixture is evaporated under reduced pressure. The resulting residue is worked up via the neutral portion in essentially the same manner as described in Example 1, and there is obtained 1-{8-fluoro-10,11-dihydro-3-methyl-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine, having a melting point of 117°-121°C. By treatment with methanesulfonic acid, there is obtained the dimethanesulfonate having a melting point of 176°-178°C. (from methanol/ether).

reactant | 10-chloro-8-fluoro-10,11-dihydro-3-methyldibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=C(C=C2)C | C15H12ClFS
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-{8-fluoro-10,11-dihydro-3-methyl-dibenzo[b,f]thiepin-10-yl}-4-methylpiperazine | FC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)C)N3CCN(CC3)C)C1 | C20H23FN2S
